US05728835
N-(2-Methoxyphenyl)-4-dimethylaminomethylbenzamide
In an atmosphere of argon, 4-chloromethyl-N-(2-methoxyphenyl)benzamide (276 mg, 1.0 mmol) was put into a 25 ml capacity eggplant type flask equipped with a cold finger and dissolved in dioxane (3 ml), followed by the addition of 50% dimethylamine aqueous solution (3 ml) at room temperature. After 2.5 hours of stirring at 80° C. and subsequent removal of dioxane by evaporation, the resulting residue was diluted with ethyl acetate (30 ml). The thus diluted solution was dried on anhydrous sodium carbonate, and the resulting residue was purified by subjecting it to a silica gel column chromatography (ether-ethyl acetate-ethyl acetate:methanol=10:1) to obtain 284 mg (100%) of the title compound in the form of colorless oil.

reactant | 4-chloromethyl-N-(2-methoxyphenyl)benzamide | 1.0 mmol, 276 mg | ClCC1=CC=C(C(=O)NC2=C(C=CC=C2)OC)C=C1 | C15H14ClNO2
reactant | dimethylamine | 3 ml | CNC | C2H7N
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | N-(2-Methoxyphenyl)-4-dimethylaminomethylbenzamide | 284 mg, 100% | COC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CN(C)C)=O | C17H20N2O2
